US08304446B2
N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-5-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]acetamide
A solution of N-[1-{[3-(aminomethyl)phenyl]methyl}-5-fluoro-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide (for a preparation see Intermediate 61) (49 mg, 0.10 mmol) in dry DMF (4 mL) was treated with HATU (38.7 mg, 0.10 mmol) and stirred under nitrogen for 3 min prior to the addition of DIPEA (0.018 mL, 0.10 mmol). The reaction mixture was stirred for a further 3 min prior to the addition of acetic acid (6.12 mg, 0.10 mmol) and stirring continued for a further 3 h. The reaction mixture was concentrated by nitrogen in a blowdown unit and the sample was loaded in dichloromethane onto aminopropyl ion-exchange cartridge (1 g) pre-equilibrated with DCM. The sample was eluted with methanol/dichloromethane and dried under a stream of nitrogen in the Radleys blowdown apparatus to give the crude product. The sample was dissolved in 1:1 MeOH-DMSO (1 mL) and purified by Mass Directed AutoPrep on Xbridge column using Acetonitrile Water with an ammonium carbonate modifier (Method C). The solvent was evaporated in vacuo using the Genevac to give the title compound (14.5 mg, 27%): LCMS (System A) RT=1.06 min, ES+ve m/z 523/525 (M+H)+.

reactant | N-[1-{[3-(aminomethyl)phenyl]methyl}-5-fluoro-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide | NCC=1C=C(C=CC1)CN1N=C(C2=C(C(=CC=C12)F)OC)NS(=O)(=O)C=1SC(=CC1)Cl | C20H18ClFN4O3S2
reactant | HATU | 0.10 mmol, 38.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.10 mmol, 0.018 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetic acid | 0.10 mmol, 6.12 mg | C(C)(=O)O | C2H4O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | MeOH DMSO | 1 mL | CO.CS(=O)C
product | N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-5-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]acetamide | 14.5 mg, 27% | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=C(C(=C12)OC)F)CC=1C=C(C=CC1)CNC(C)=O | C22H20ClFN4O4S2
